US09216968B2
2-[2-Oxo-2-(pyrrolidin-1-yl)ethyl]-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylic acid
A solution of methyl 2-[2-oxo-2-(pyrrolidin-1-yl)ethyl]-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylate (74 mg) and lithium hydroxide hydrate (66 mg) in MeOH-water (1:1, 2 mL) was stirred at 50° C. for 30 minutes. The solvent was removed under reduced pressure, water was added, and the residue was neutralized by 1N hydrochloric acid under ice-cooling. The precipitate was collected by filtration, washed with diethyl ether, and dried under reduced pressure to obtain the titled compound (60 mg) as pale yellow powder.

reactant | methyl 2-[2-oxo-2-(pyrrolidin-1-yl)ethyl]-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylate | 74 mg | O=C(CC1=NC2=C(N1)C=C(C=C2C(=O)OC)NC(=O)C2=C(C=CC=C2)C(F)(F)F)N2CCCC2 | C23H21F3N4O4
reactant | lithium hydroxide hydrate | 66 mg | O.[OH-].[Li+]
solvent | MeOH water | 2 mL | CO.O
product | 2-[2-Oxo-2-(pyrrolidin-1-yl)ethyl]-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylic acid | 60 mg | O=C(CC1=NC2=C(N1)C=C(C=C2C(=O)O)NC(=O)C2=C(C=CC=C2)C(F)(F)F)N2CCCC2 | C22H19F3N4O4
